US08309542B2
(d) Methyl (RS)-6,7-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-2-carboxylate
A mixture of 2.0 g (6.1 mmol) (RS)-2-bromo-6,7-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine×HBr, 2.0 g (24 mmol) sodium acetate and 100 ml of methanol is combined with 15 mg (0.067 mmol) palladium acetate, 150 mg (0.27 mmol) 1,1′-bis(diphenylphosphino)ferrocene and 2.6 ml (18 mmol) triethylamine and carbonylated for 3.5 h at 80° C. under 5 bar of CO atmosphere. Then the mixture is filtered off, concentrated, combined with sat. NaHCO3 solution and methylene chloride and the resulting emulsion is filtered through Celite. The aqueous phase is separated off and extracted 2× with methylene chloride and the combined organic phases are dried with Na2SO4 and concentrated. The crude product is reacted further without any further purification.

reactant | (RS)-2-bromo-6,7-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | 6.1 mmol, 2.0 g | BrC1=CC2=C(C(N(CC2)C)C)S1 | C9H12BrNS
reactant | HBr | Br | BrH
reactant | sodium acetate | 24 mmol, 2.0 g | C(C)(=O)[O-].[Na+]
reactant | triethylamine | 18 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.067 mmol, 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.27 mmol, 150 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | methanol | 100 ml | CO | CH4O
product | Methyl (RS)-6,7-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-2-carboxylate | CN1C(C2=C(CC1)C=C(S2)C(=O)OC)C | C11H15NO2S
